Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Clindamycin / Erythromycin Base / Gentamicin Sulfate / Morphine
 
Attending: ___.
 
Chief Complaint:
Hip pain
 
Major Surgical or Invasive Procedure:
Surgical repair of left femoral neck fracture

 
History of Present Illness:
Mr. ___ is a ___ male with schizophrenia, severe 
parkinsonism & Crohn's disease who presents with a left femoral 
neck fracture after unwitnessed fall on the day prior to 
admission. He reports that he was feeling "weak" with "unsteady 
feet." He reports that he was down for 5+ minutes. Denies LOC or 
memory loss. Denied any chest pain or dizziness at the time. He 
saw an MD today who did an x-ray which showed a fracture of the 
left femoral neck and mild lateral displacement of the pelvis. 
He was BIBA for further evaluation.  
.  
In the ED initial VS were 98.9, 94, 147/95, 17, 100%RA. Left hip 
radiograph revealed a subcapital left femoral neck fracture. 
Patient had a negative CT head, CT c-spine & CXR. He received 
dilaudid 0.5mg IV for pain control with good effect. He was 
evaluated by orthopedics, who plan to take him to the OR in the 
morning. He was admitted to medicine for medical evaluation 
prior to surgery. VS on transfer were 98.1 BP 144/82, R 16, HR 
96, Sp02 98%RA.  
.  
On the floor, patient is laying supine in bed, appears mildly 
uncomfortable but is pleasant and conversant. C/o 8 of out 10 
left hip pain and anxiety. Otherwise no other complaints.  

 
Past Medical History:
1. Crohn's Disease, dxd in ___, has had recurrent SBO's with 
small bowel resections in ___ and ___. Last flare was ___. On 

prednisone ___ mg a day for past ___ years for his Crohn's. 
2. Pneumonia- ___. h/o orthostatic hypotension 
4. ?myotonic dystrophy: had emg/ncs and blood tests by Dr ___ 
5. h/o esophageal dysmotility 
6. s/p benign bladder polyp resection ___ 
7. s/p anterior mediastinal teratoma resection ___ 
8. Schizophrenia (pt has hallucinations both visual (distortion 
of visual objects) and tactile (crawling object on skin). 
9. bilateral cataracts 
 
Social History:
___
Family History:
father-stroke at age ___, No one in family with muscle disorder.
 
Physical Exam:
VS: 98.8, 158/98, 102, 22, 96%RA, 8 out of 10 pain in L hip  
GEN: thin male, shaking ("from anxiety"), appears uncomfortable  

HEENT: NCAT. EOMI. PERRL. L upper eyelid swollen, conjunctiva 
injected, purulent discharge. R eye WNL. dry MM. no LAD. no JVD. 
neck supple.  
CV: tachycardic, regular rhythm, normal S1/S2, no murmurs, 
gallops or rubs.  
LUNG: CTA in bilateral axillae & anteriorly (pt unable to sit up 
or roll over ___ pain), no wheezes, rales or rhonchi  
ABD: soft, NT/ND, +BS. no rebound or guarding. neg HSM.  
EXT: W/WP, no edema, no C/C. 2+ ___ pulses bilaterally.  
SKIN: W/D/I  
NEURO: A+Ox3, CNs II-XII intact. sensation intact to LT.  
MSK: no spine tenderness, pain at left hip with ROM limited by 
pain, left leg shortened and rotated  
PSYCH: slightly anxious  

 
Pertinent Results:
___ 01:40PM BLOOD WBC-10.5 RBC-3.43* Hgb-10.3* Hct-30.6* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-15.0 Plt ___
___ 09:15PM BLOOD WBC-9.2 RBC-3.26* Hgb-10.0* Hct-29.4* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-15.1 Plt ___
___ 01:40PM BLOOD Plt ___
___ 01:40PM BLOOD ___ PTT-25.9 ___
___ 01:40PM BLOOD Glucose-162* UreaN-21* Creat-0.7 Na-140 
K-3.5 Cl-109* HCO3-22 AnGap-13
___ 06:30AM BLOOD Glucose-89 UreaN-21* Creat-0.6 Na-143 
K-3.9 Cl-111* HCO3-22 AnGap-14
___ 01:40PM BLOOD ALT-51* AST-59* AlkPhos-49 TotBili-0.3
___ 06:30AM BLOOD ALT-50* AST-73* AlkPhos-47 TotBili-0.3
___ 01:40PM BLOOD Calcium-8.2* Phos-1.1* Mg-2.1
___ 06:30AM BLOOD Calcium-8.1* Phos-1.5* Mg-2.0
___ 10:00PM URINE Color-Amber Appear-Clear Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 10:00PM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
.
Blood culture ___: no growth to date
Blood culture ___: no growth to date, not yet finalized 
.
CXR (___): 
IMPRESSION: 
Improved right lower lobe opacity with a new left lower lobe 
opacity 
suggestive of recurrent aspiration. 
.
Hip X-ray (___): 
Single AP view of the left hip demonstrates 
hemiarthroplasty. The hardware appears intact. No definite 
fracture or 
dislocation on the single view. 
.
CXR (___): 
FINDINGS: As compared to the previous radiograph, today's image 
shows a 
relatively extensive parenchymal opacity with air bronchograms 
at the right lung base. In the appropriate clinical setting, 
this opacity is consistent with aspiration or pneumonia. No 
other parenchymal opacities. Normal size of the cardiac 
silhouette. No pleural effusions. Known rib fractures. 
.
Hip x-ray (___): 
FINDINGS: Again is noted a right total hip arthroplasty with the 
femoral 
component well seated within the acetabular component. 
The left hip demonstrates a fracture through the femoral neck, 
likely in the subcapital region, with varus angulation. Mild 
soft tissue swelling is seen about the hip. There is no 
underlying lytic or sclerotic lesion. There is no subcutaneous 
gas or radiopaque foreign body on the left side.   The single 
view of the pelvis demonstrates no SI joint widening or pubic 
symphysis diastasis. No fracture of the pelvis is seen. 
IMPRESSION: Left femoral neck fracture, subcapital. 
 

 
Brief Hospital Course:
___ male with schizophrenia, severe parkinsonism & 
Crohn's disease who presents with a left femoral neck fracture 
after unwitnessed fall on the day prior to admission.  
.  
# Left femoral neck fracture: Patient presents s/p unwitnessed 
wall with a left femoral neck fracture. He was taken to the OR 
on ___ for operative repair. He was started on lovenox 40mg 
SQ after the procedure with plan for a ___ week course for DVT 
prophylaxis. His pain was controlled with tylenol ATC and 
oxycodone PRN. His foley was d/c on post-op day 1. He should 
have his staples removed in 2 weeks (___).  If the nurses at 
your rehab ___ cannot do this, please call ___ and 
schedule an appointment with ___, NP, to have this 
done. He will need to have an appointment scheduled with his 
orthopedic surgeon ___. ___ M.D. in 6 weeks. 
.
#Aspiration Pneumonia: On day two of his admission, prior to 
going to the OR, he was noted to have increased 
secretions,productive cough, fever to 102, with desaturation to 
the high ___ on room air with CXR showing left base opacity 
concerning for pneumonia, likely aspiration. He was started on 
vancomycin, cefepime, flagyl. He was kept NPO for several days 
including medications due to concern for aspiration. After 48hrs 
he was transitioned to levaquin/flagyl with plan to complete a 
total 10 day course (until ___. After that time his levaquin 
should be d/c and his flagyl changed back to his standard 500mg 
QHS and 250mg QAM. 
.
Conjunctivitis: Patient has left and right conjunctival 
injection, purulent drainage and eyelid swelling, consistent 
with conjuctivitis. Has erythromycin allergy, so treated with 
Sulfacetamide 10% Ophth Soln. ___ drops and artificial tears 
PRN. 
.
Crohn's disease: His flagyl was changed from home dose 500mgQHs 
and 250mgQAM to 500TID for pneumonia. This will need to be 
changed back to his standard regimen after completion of 
treatment for pneumonia. His prednisone was changed to 
solumedrol while he was NPO then changed back to Predisone 9mg 
when secretions improved and able to take PO.
.
Loose stools: Patient with several episodes of loose stools over 
the past 24 hours. Most likely antibiotic associated. 
.
Schizophrenia: While he was NPO his psychiatric medications were 
held for several days then clozapine, topamax, benztropine & 
clonazepam were restarted.  Appears at baseline. 
.
Nutrition (speech and swallow evaluation on ___:
1. PO diet of nectar thick liquids and pureed solids
2. Meds crushed and mixed with nectar thick water
3. 1:1 supervision for the following: 
     a) liquids by tsp only
     b) slow rate of intake
     c) sit fully upright for all PO intake
     d) alternate bites and sips
     e) check for pocketing after the meal
4. Pt requests nectar thick water only. He takes cream of wheat
for breakfast only and requests pureed meat loaf and egg salad
with mashed potatoes for lunch and dinner.
5. Resource, high protein vanilla pudding at all meals, per pt
request
6. TID oral care
7. Nutrition follow up given modified diet
8. Please page with questions or concerns
  
 
Medications on Admission:
- Prednisone 9mg DAILY  
- Clonazepam 0.25mg BID  
- Benztropine 1.5mg DAILY  
- Clozapine 250mg QAM, 200mg QHS  
- Vit B12 100mcg DAILY  
- Topiramate 25mg BID  
- Flagyl 250mg QAM  
- Flagyl 500mg QHS  
- Vitamin D 1000 units DAILY  
- Omeprazole 20mg DAILY  
- Meclizine 50mg QAM, 25mg daily at noon  
- Milk of Magnesia 30mL TID PRN  
- Acetaminophen 650mg Q4H PRN  
- Pepto-Bismol 262mg/15mL BID PRN  
- Artificial Tears 1 drop ___ PRN  
- Trazodone 25mg BID PRN  
 
Discharge Medications:
1. prednisone 5 mg/5 mL Solution Sig: Nine (9) mg PO once a day. 
 
2. clonazepam 0.25 mg Tablet, Rapid Dissolve Sig: One (1) 
Tablet, Rapid Dissolve PO twice a day.  
3. benztropine 0.5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. clozapine 100 mg Tablet, Rapid Dissolve Sig: 2.5 Tablet, 
Rapid Dissolves PO qAM.  
5. clozapine 100 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
6. cyanocobalamin (vitamin B-12) 100 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. topiramate 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. meclizine 12.5 mg Tablet Sig: Four (4) Tablet PO QAM (once a 
day (in the morning)).  
11. meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO Q 12NOON (). 
 
12. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q8H (every 8 hours) as needed for constipation.  
13. acetaminophen 325 mg Tablet Sig: ___ Tablets PO every four 
(4) hours.  
14. bismuth subsalicylate 262 mg/15 mL Suspension Sig: Fifteen 
(15) ML PO BID (2 times a day) as needed for diarrhea.  
15. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
16. trazodone 50 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day) as needed for insomnia, agitation.  
17. enoxaparin 40 mg/0.4 mL Syringe Sig: Forty (40) mg 
Subcutaneous QPM (once a day (in the evening)) for 4 weeks.  
18. docusate sodium 50 mg/5 mL Liquid Sig: One Hundred (100) mg 
PO BID (2 times a day).  
19. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
20. sulfacetamide sodium 10 % Drops Sig: ___ Drops Ophthalmic 
Q4H (every 4 hours) for 6 days: Last dose ___.  
21. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 4 days.  
22. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 4 days: Then after this course change back 
to his regimen of 250mg QAM and 500mg QHS for Crohn's disease.  
23. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain. Tablet(s) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Left Femoral Neck Fracture
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound - needs assistance to get out of bed 
or to chair.

 
Discharge Instructions:
Mr. ___,

You came to ___ because you 
broke your femur.  While you were here you developed a cough and 
trouble breathing, and were found to have pneumonia.  You were 
treated for pneumonia with antibiotics.  You also went to the OR 
for surgery to repair your femur.  Your surgery went well. 

The following changes were made to your medications:
1. STARTED levofloxacin for pneumonia.
2. INCREASED metronidazole for pneumonia.
3. STARTED lovenox to prevent DVT.
4. START tylenol and oxycodone PRN for hip pain after the 
operation
 
Followup Instructions:
___